US07776869B2
To an argon purged solution of N-(3-(dimethylamino)propyl)-N-methyl-2-nitro-4-(trifluoromethyl)benzenesulfonamide (255 mg, 0.69 mmol) in EtOH (10 ml) was added Pd/C (73 mg, 0.069 mmol, 10%). The reaction mixture was placed under an atmosphere of H2 gas and allowed to stir for 2 h. The reaction mixture was purged with argon and filtered through Celite. The reaction was washed with EtOH (10 ml) and concentrated under reduced pressure to afford 2-amino-N-(3-(dimethylamino)propyl)-N-methyl-4-(trifluoromethyl)benzenesulfonamide as a dark oil. MS m/z=340.1 [M+H]+. Calc'd for C13H20F3N3O2S: 339.4.

reactant | N-(3-(dimethylamino)propyl)-N-methyl-2-nitro-4-(trifluoromethyl)benzenesulfonamide | 0.69 mmol, 255 mg | CN(CCCN(S(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C)C | C13H18F3N3O4S
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Pd/C | 0.069 mmol, 73 mg | [Pd] | Pd
product | 2-amino-N-(3-(dimethylamino)propyl)-N-methyl-4-(trifluoromethyl)benzenesulfonamide | NC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)N(C)CCCN(C)C | C13H20F3N3O2S
